US06048864
(a) 4-Amino-6-hydroxy-7-methoxy-2-[4-(4-morpholinecarbonyl)-1,4-diazepan-1-yl]quinoline
10% Palladium on charcoal (250 mg) was added to a solution of 4-amino-6-benzyloxy-7-methoxy-2-[4-(4-morpholinecarbonyl)-1,4-diazepan-1-yl]quinoline (1.01 g, 0.002 mol) in ethanol (100 ml) and the reaction stirred at room temperature under a hydrogen atmosphere of 414 kPa (60 p.s.i.) for 72 hours. The reaction mixture was filtered through Arbocel™, washing well with further ethanol. The filtrate was evaporated under reduced pressure to give the subtitle compound as a solid (770 mg, 93%). Rf 0.40 (0.880 aqueous ammonia:methanol:dichloromethane 2:14:84, v/v). MS m/z 402 (MH)+.

reactant | 4-amino-6-benzyloxy-7-methoxy-2-[4-(4-morpholinecarbonyl)-1,4-diazepan-1-yl]quinoline | 0.002 mol, 1.01 g | NC1=CC(=NC2=CC(=C(C=C12)OCC1=CC=CC=C1)OC)N1CCN(CCC1)C(=O)N1CCOCC1 | C27H33N5O4
catalyst | Palladium on charcoal | 250 mg | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-Amino-6-hydroxy-7-methoxy-2-[4-(4-morpholinecarbonyl)-1,4-diazepan-1-yl]quinoline | 770 mg, 93% | NC1=CC(=NC2=CC(=C(C=C12)O)OC)N1CCN(CCC1)C(=O)N1CCOCC1 | C20H27N5O4
